Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chief Complaint: Respiratory distress
Reason for MICU transfer: Altered mental status
 
Major Surgical or Invasive Procedure:
Femoral CVL placement
 
History of Present Illness:
Mrs. ___ is an ___ year old lady with a history of 
hypertension, heart failure with preserved EF, anemia, CKD, 
recent admission to ___ for UTI, ___, and acute CHF, who 
presented to ___ early this morning from home with 
respiratory distress. 

Her recent events are summarized below. She saw her PCP ___ 
___ (Dr. ___ at ___, who directly admitted her to 
___ for 4 pound weight gain, increasing leg edema, loose 
stools, "acting off," ___ and electrolyte imbalance felt to be 
diuretic/ace/diarrhea.

She was just discharged on ___ from ___ after 
an admission ___ for ___, UTI, diarrhea, diastolic 
CHF. She had loose stools negative for c diff, ___ which 
resolved (3.17--> 1.77), echo which showed preserved EF, and 
urine culture with GNRs >100K which grew pan-sensitive proteus. 

For ___, they stopped ___ (as renal team saw her and they felt 
she minimal proteinuria), torsemide, started furosemide 10mg. 
For anemia, felt to be ACD as Iron studies suggest anemia of 
chronic disease: lowTIBC, high ferritin, low/normal iron, B12 
and folate also normal.  Stool guaiac negative x 2. Discharge 
creatinine 1.77, admission was 3.17. On that admission, 
lorazepam, torsemide, eszopiclone, irbesartan, alendronate, and 
hydrocodone/ibuprofen were stopped, carvedilol increased. 
Discharged on 3 days of cipro.

On ___, around 2am she reported that "her abdomen was moving 
in and out very quickly". Her husband called EMS due to rapid 
breathing and she was found to be hypoxic to the ___ on room 
air. She was sent to ___ and placed on BiPAP and given 
nebulizers and her sats improved to the high ___. The patient 
stated she feels well and denied any history of CHF though has 
known ___ and had admission for this last week. 

She was given vanc and zosyn, 3L of fluid for hypotension (70s 
systolic. She was given 2L IVFs with resolution of her 
hypotension). Then transferred to ___ on Bipap and was 
somnolent with borderline blood pressures, femoral CVL placed, 
taken off bipap, she was tolerating NC, interactive but somewhat 
lethargic, recognizes family members, protecting airway right 
now. No need for intubation now per ED resident. Cardiology saw 
her but given known UTI felt MICU admission more appropriate.  
BNP elevated at 8100. Last dose zosyn 4 am.

In the ED, initial vitals:  06:16 0 97.6 84 115/66 24 100%  
Labs significant for BNP 8181, HCT 28.1, INR 1.2, albumin 3, ast 
48, urine opiate positive, pyuria. Creatinine 1.8 is baseline. 
VBG showed 7.3, pco2 49, po2 26. Lactate 2.3, Trop 0.23  
On transfer, vitals were: Today 11:02 asleep  76 113/67 23 100% 
Nasal Cannula

ED resident recommended work-up of new anemia (this is old) and 
reported that she would be started on norepinephrine for SBP 87 
systolic. However pressures improved spontaneously.

On arrival to the MICU, she is not on norepinephrine and satting 
99% on RA. She reports her only problem is dry lips. She also 
requests another blanket (chronically cold) and a spray for dry 
nose. She is concerned pneumoboots will trigger her restless 
legs.

Reports chronic cough x 2 weeks sometimes productive of phlegm. 
Loose stools improved after husband stopped giving her miralax. 

Review of systems: She denies any chest pain, shortness of 
breath, nausea, vomiting, abdominal pain.
 
Past Medical History:
Constipation 
Hypertension 
Acute renal failure 
Memory disorder 
Hearing loss 
Ischemic cardiomyopathy 
Hyperlipemia 
Chronic kidney disease, stage II (mild) 1.4-1.8
Anemia 
Osteoporosis 
Vitamin D deficiency 
Folate deficiency anemia 
Hypothyroid 
Venous insufficiency 
H/O: gout 
MCI (mild cognitive impairment) 
Depression 
Anxiety 
Insomnia 
RLS (restless legs syndrome) 
Hiatal hernia with gastroesophageal reflux 
Elevated diaphragm 
Diverticulosis 
H/O bilateral hip replacements 
Compression fracture 
Diastolic CHF
 
Social History:
___
Family History:
No family history of heart failure.
 
Physical Exam:
ADMISSION EXAM:
================
Vitals: 98.5 - ___ (currently 114/64), HR 81, RR 22, 99% on RA
GENERAL: Alert, oriented x3 and to president, no acute 
respiratory distress
HEENT: Sclera anicteric, MM dry, R periorbital bruise is 
healing, dry lips, poor dentition
NECK: Aupple, JVP elevated to 5cm above clavicle,
LUNGS: Crackles to mid lung fields bilaterally without wheeze or 
focal rhonchi
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops
ABD: Soft, obese, non-tender, non-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly  
EXT: L femoral CVL in place w/o purulence, has small 1cm 
hematoma medially, very edematous legs with thin skin and e/o 
chronic changes in lower legs, ___ pretibial pitting edema
SKIN: Thin, multiple ecchymoses
NEURO: Lifts arms and legs against gravity and force

DISCHARGE EXAM:
================
Vital Signs: T 98.4, HR 87, BP 129/43, RR 20, SaO2 96% RA
Weight: 77.5 kg (standing)
GENERAL: Elderly woman sitting comfortably in bed, pleasant, in 
NAD  
HEENT: Sclera anicteric, MMM, oropharynx clear, scattered 
ecchymoses across face  
Lungs: Breathing comfortably, adequate air movement, faint 
bibasilar crackles
CV: RRR, normal S1 + S2, no murmurs, rubs, or gallops
Abdomen: +BS, soft, nontender to palpation, no rebound or 
guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses. Nonpitting edema 
bilaterally
Skin: Venous stasis disease bilaterally, +varicosities
Neuro: AAOx3, grossly intact, moving all extremities with 
purpose
 
Pertinent Results:
ADMISSION LABS:
================
___ 06:30AM BLOOD WBC-9.9 RBC-3.19* Hgb-9.6* Hct-28.1* 
MCV-88 MCH-30.0 MCHC-34.1 RDW-13.0 Plt ___
___ 06:30AM BLOOD Neuts-81.4* Lymphs-11.1* Monos-6.5 
Eos-0.8 Baso-0.1
___ 06:30AM BLOOD ___ PTT-24.1* ___
___ 07:35AM BLOOD Ret Aut-1.9
___ 06:30AM BLOOD Glucose-135* UreaN-28* Creat-1.8* Na-138 
K-4.9 Cl-105 HCO3-25 AnGap-13
___ 06:30AM BLOOD ALT-24 AST-48* AlkPhos-74 TotBili-0.3
___ 06:30AM BLOOD Lipase-46
___ 06:30AM BLOOD proBNP-8181*
___ 07:03AM BLOOD Lactate-2.3*
___ 06:30AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-7* 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:03AM BLOOD ___ pO2-26* pCO2-49* pH-7.30* 
calTCO2-25 Base XS--3 Intubat-NOT INTUBA

TROPONINS
___ 06:30AM BLOOD cTropnT-0.23*
___ 01:45PM BLOOD CK-MB-4 cTropnT-0.14*
___ 07:30PM BLOOD CK-MB-3 cTropnT-0.12*
___ 08:36PM BLOOD cTropnT-0.08*

DISCHARGE LABS:
================
___ 09:40AM BLOOD WBC-6.9 RBC-3.21* Hgb-9.3* Hct-28.7* 
MCV-89 MCH-28.8 MCHC-32.3 RDW-14.1 Plt ___
___ 09:40AM BLOOD Glucose-127* UreaN-31* Creat-2.3* Na-132* 
K-3.9 Cl-96 HCO3-22 AnGap-18
___ 09:40AM BLOOD Calcium-8.3* Phos-2.8 Mg-2.1

MICROBIOLOGY:
==============
___ BCx x 4 - negative
___ BCx x 2 - pending

URINE:
___ 07:37AM URINE Color-Yellow Appear-Cloudy Sp ___
___ 07:37AM URINE Blood-SM  Nitrite-NEG Protein-600 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 07:37AM URINE RBC->182* WBC->182* Bacteri-MANY 
Yeast-NONE Epi-12'

URINE CULTURE (Final ___: 
ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
PRESUMPTIVE IDENTIFICATION. 
Ertapenem REQUESTED PER ___. ___ (___) ___. 
Ertapenem SENSITIVE sensitivity testing performed by ___ 
___. 
Cefepime sensitivity testing performed by ___. 

SENSITIVITIES: MIC expressed in MCG/ML                     
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------       I
CEFTAZIDIME-----------    16 R
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

IMAGING:
=========
CXR ___
Low lung volumes, with mild pulmonary edema.  A retrocardiac 
opacity may be due to a combination of atelectasis and edema, 
but superimposed pneumonia cannot be excluded. 

___ (___):
The left atrium and right atrium are normal in cavity size. Left 
ventricular wall thicknesses and cavity size are normal. Overall 
left ventricular systolic function is severely depressed (LVEF= 
___ %). A left ventricular mass/thrombus cannot be excluded. 
There is no ventricular septal defect. The right ventricular 
cavity is mildly dilated with borderline normal free wall 
function. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. No aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. Moderate to 
severe (3+) mitral regurgitation is seen. The tricuspid valve 
leaflets are mildly thickened. There is mild pulmonary artery 
systolic hypertension. There is no pericardial effusion. 
IMPRESSION: Severe global left ventricular systolic dysfunction 
- onlly the basal inferior/inferolateral segments have 
appreciable systolic function. Unable to exclude an apical 
thrombus - recommend focused imaging with echo contrast to 
clarify. Mildly dilated and borderline hypokinetic right 
ventricle. Moderate to severe posteriorly directed mitral 
regurgitation. Mild pulmonary hypertension. 

___ (___):
There is severe regional left ventricular systolic dysfunction 
with akinesis of the anterior septum and anterior wall dyskineis 
with severe hypokinesis of the remaining segments (LVEF = <20 
%). No masses or thrombi are seen in the left ventricle. 
IMPRESSION: Severe regional left ventricular systolic 
dysfunction. No intraventricular thrombis identified.  
 
Brief Hospital Course:
Ms. ___ is an ___ woman with a past medical history 
significant for ___, HTN, anemia, CKD, with recent admission to 
___ on ___ with 4 lb weight gain, worsening 
leg edema, loose stools, and mild confusion who re-presented for 
respiratory distress, found to have new acute systolic heart 
failure and sepsis secondary to UTI.  Patient was initially 
admitted to ICU given respiratory distress and transferred to 
regular floor within 24h.  On ___, she was transferred again 
to ICU in <12h for altered mental status in the setting of 
delirium, ultimately her course included sepsis, aute bacterial 
UTI and new acute systolic CHF. 
  
# Sepsis secondary to UTI:  Patient met ___ sepsis criteria (RR, 
hypoxia) with initial concern for HCAP.  She was started on 
broad-spectrum antibiotics and narrowed to cefepime after urine 
culture grew E. coli.  She was switched from cefepime to 
meropenem based on culture sensitivities showing resistance to 
cefepime.  She was then transitioned to po Bactrim and completed 
a 7 day course of antibiotics on ___.
   
# Hypoxemia:  Initial concern for HCAP, though there was no 
clear infiltrate on CXR and no report of cough.  Her hypoxia was 
impressive though responded well to Tylenol and BIPAP, more 
suggestive of a transient process related to possibly some mild 
flash pulmonary edema given heart failure as well as V/Q 
mismatching in the lungs.  Though she was initially started on 
vancomycin/cefepime for HCAP, these were eventually 
discontinued.  Her heart failure was treated as below.
   
# Acute systolic CHF:  
# Chronic heart failure with preserved ejection fraction:
Patient had clinical evidence of heart failure (pulmonary edema, 
mild ___ edema) on admission.  ___ revealed severely depressed 
LVEF (___) with moderate to severe MR ___ when compared to 
___ on ___.  She was diuresed with IV Lasix and 
transitioned to po torsemide, though this was held on the two 
days prior to discharge (and restarted on day of discharge) 
given rising creatinine.  Patient was continued on carvedilol 
and started on losartan 100 mg daily, which was later decreased 
to 50 mg daily given rising creatinine.  Given EF 15% and apical 
akinesis, we considered the risks/benefits of anticoagulation 
given risk of developing LV thrombus/stroke.  As her 
cardiomyopathy is most likely stress-induced (i.e. reversible), 
we held off on anticoagulation.  Would recommend repeat ___ in 
___ weeks with reinitiation of the risk/benefit discussion of 
anticoagulation if akinesis persists.

# Acute on chronic Renal Failure:  Baseline creatinine appears 
to be mid 1s in Atrius records.  Creatinine on admission was 
1.8, which fluctuated with diuresis.  Her creatinine rose from 2 
to 2.5 after switching from Lasix to torsemide and after 
starting losartan.  This was most likely a combination of 
falsely elevated Cr due to decrease in GFR from ___ initiation 
as well as mild intravascular depletion from diuresis.  
Creatinine rose as high as 2.8, so her torsemide was held and 
losartan dose was decreased.  Creatinine on discharge had 
improved to 2.3, so torsemide 20 mg po daily was restarted.
    
# NSTEMI Type 2:  There was initially concern for ACS given 
elevated troponin, hypoxia, and LBBB on EKG, so patient was 
given full dose aspirin and also started on low-dose 
atorvastatin 20 mg.  Given the absence of any associated chest 
discomfort, no new ischemic changes on EKG, no regionality to 
her systolic dysfunction on ___, and downtrending cardiac 
enzymes, most likely etiology of elevated troponins is demand 
ischemia in the setting of respiratory distress, sepsis, and new 
systolic CHF.  Carvedilol was held initially but later restarted 
at 3.125 mg po bid.  She was started on losartan 50 mg daily.
   
# Toxic-metabolic encephalopathy:  Patient was found to be 
poorly responsive to sternal rub but with stable vital signs at 
several points during one night of her hospitalization.  She had 
no focal neurological deficits during these times.  Episodes 
were brief (10 min) and would resolve with random interventions 
(no intervention and nebulizers at one point).  She would 
subsequently be alert, oriented, and very interactive with no 
recall of event.  She was transferred to the ICU for closer 
monitoring.  These episodes resolved and she was called back out 
to the floor.  This may have been encephalopathy related to UTI. 
She had no further episodes of encephalopathy while on the 
medical floor.
       
# Anemia:  Review of Atrius records reveal baseline H/H 
9.9/11.4.  H/H on admission was at baseline.  She had no overt 
bleeding.  Previous work-up has been consistent with anemia of 
chronic disease (ferritin 338).
  
TRANSITIONAL ISSUES:
======================
# Standing dry weight at discharge: 77.5 kg
# Patient was discharged on torsemide 20 mg po daily. Losartan 
50 mg daily was started.
[ ] Creatinine on discharge was 2.3. Please recheck CMP on 
___ at cardiology appointment. Decrease torsemide to 10 mg 
daily if creatinine is rising.
[ ] Repeat ___ in ___ weeks.  If akinesis/depressed EF persists, 
would recommend haivng a discussion with patient/family about 
risks/benefits of anticoagulation for stroke prevention.
[ ] Consider high dose statin.
# CODE: Full confirmed
# CONTACT: HCP: ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 50 mcg PO DAILY 
2. Vitamin D 5000 UNIT PO DAILY 
3. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 
4. Acetaminophen 650 mg PO Q6H:PRN pain, fever 
5. Fish Oil (Omega 3) 300 mg PO DAILY 
6. Nystatin-Triamcinolone Cream 1 Appl TP BID 
7. Ropinirole 3 mg PO QPM 
8. Venlafaxine XR 75 mg PO QHS 
9. Omeprazole 20 mg PO DAILY 
10. Carvedilol 6.25 mg PO BID 
11. Furosemide 10 mg PO DAILY 
12. Ciprofloxacin HCl 500 mg PO Q48H 

 
Discharge Medications:
1. Levothyroxine Sodium 50 mcg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Ropinirole 3 mg PO QPM 
4. Venlafaxine XR 75 mg PO QHS 
5. Vitamin D 5000 UNIT PO DAILY 
6. Carvedilol 3.125 mg PO BID 
7. Aspirin 81 mg PO DAILY 
8. Atorvastatin 20 mg PO QPM 
9. Acetaminophen 650 mg PO Q6H:PRN pain, fever 
10. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 
11. Fish Oil (Omega 3) 300 mg PO DAILY 
12. Nystatin-Triamcinolone Cream 1 Appl TP BID 
13. Docusate Sodium 100 mg PO BID 
14. Senna 8.6 mg PO QHS:PRN constipation 
15. Torsemide 20 mg PO DAILY 
16. TraZODone 25 mg PO QHS:PRN insomnia 
17. Losartan Potassium 50 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
===================
Acute on chronic systolic and diastolic heart failure
Urinary tract infection

SECONDARY DIAGNOSES:
=====================
Acute on chronic kidney injury
Type 2 non-ST elevation MI

**Rehab anticipated <30 days**

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your hospitalization at 
___.  You were admitted for shortness of breath and low oxygen 
level.  You were found to have fluid in your lungs related to 
"heart failure" (which means that your heart was not pumping 
appropriately).  You were given medications to remove this fluid 
and your breathing improved.  You were also found to have a 
urinary tract infaction, which was treated with antibiotics.

You were started on several new medications.  It is important to 
continue to take all of your medications and keep your follow-up 
appointments.

We wish you good health!

Sincerely,
Your ___ Team
 
Followup Instructions:
___